US09287504B2
2,5-Bis-(3-hexyl-undecyl)-benzene-1,4-diol (4.5)
1,4-Bis-(3-hexyl-undecyl)-2,5-dimethoxy-benzene (7.000 g; 11.38 mmol) is dissolved in anhydrous dichloromethane (115 cm3) before cooling down the solution to −78° C. Neat boron tribromide (2.69 ml; 28.5 mmol) is added dropwise over 15 minutes. The resulting mixture is stirred at −78° C. for 1 hour before being warmed to 23° C. for 18 hours. Methanol (25 cm3) and then diluted HCl (75 cm3) is added before pouring the reaction mixture into water. The organic layer is separated and the aqueous layer extracted tow times with diethyl ether (2×250 cm3). The organic fractions are combined, dried over magnesium sulfate and the solvents removed under vacuum. The crude product is used, as it, without further purification (6.51 g, Yield: 97%). NMR (1H, 300 MHz, CDCl3): δ 6.54 (s, 2H); 4.24 (br, 2H); 2.47 (m, 4H); 1.51 (m, 4H); 1.26 (m; 50H); 0.88 (t, J=6.7 Hz, 12H).

reactant | 1,4-Bis-(3-hexyl-undecyl)-2,5-dimethoxy-benzene | 11.38 mmol, 7.000 g | C(CCCCC)C(CCC1=C(C=C(C(=C1)OC)CCC(CCCCCCCC)CCCCCC)OC)CCCCCCCC | C42H78O2
reactant | boron tribromide | 28.5 mmol, 2.69 ml | B(Br)(Br)Br | BBr3
reactant | Methanol | 25 cm3 | CO | CH4O
reactant | HCl | 75 cm3 | Cl | ClH
solvent | dichloromethane | 115 cm3 | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2,5-Bis-(3-hexyl-undecyl)-benzene-1,4-diol | Yield: 97% | C(CCCCC)C(CCC1=C(C=C(C(=C1)O)CCC(CCCCCCCC)CCCCCC)O)CCCCCCCC | C40H74O2
